US08957066B2
(E)-ethyl 3-(1-(2-phenoxyethyl)-1H-pyrazol-4-yl)acrylate
Cesium carbonate (0.490 g, 1.5 mmol) and 1-(2-bromoethoxy)benzene (0.261 g, 1.30 mmol) were added to a solution of (E)-ethyl 3-(1H-pyrazol-4-yl)acrylate (0.167 g, 1 mmol) in ACN (8 mL) at room temperature. The suspension was stirred overnight at 80° C. The reaction mixture was then cooled down to room temperature and the precipitated solids were filtered off. The filtrate was concentrated and purified by silica gel column chromatography using a gradient of 0-60% of EtOAc in hexanes to provide the title compound (0.203 g, 71%) as a colorless oil. ES+(M+H)+287

reactant | Cesium carbonate | 1.5 mmol, 0.490 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-bromoethoxy)benzene | 1.30 mmol, 0.261 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | (E)-ethyl 3-(1H-pyrazol-4-yl)acrylate | 1 mmol, 0.167 g | N1N=CC(=C1)/C=C/C(=O)OCC | C8H10N2O2
solvent | ACN | 8 mL | C(C)#N | C2H3N
product | (E)-ethyl 3-(1-(2-phenoxyethyl)-1H-pyrazol-4-yl)acrylate | 0.203 g, 71% | O(C1=CC=CC=C1)CCN1N=CC(=C1)/C=C/C(=O)OCC | C16H18N2O3
